US08067445B2
Step 2: [2′-({[1-(4-Chloro-phenyl)-ethoxycarbonyl]-ethyl-amino}-methyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester
Prepared according to the procedure described in Example 56, Step 2, using the following starting materials: (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester and 1-(4-chlorophenyl)ethyl chloroformate.

reactant | (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C20H22F3NO3
reactant | 1-(4-chlorophenyl)ethyl chloroformate | ClC(=O)OC(C)C1=CC=C(C=C1)Cl | C9H8Cl2O2
product | [2′-({[1-(4-Chloro-phenyl)-ethoxycarbonyl]-ethyl-amino}-methyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)OC(C)C1=CC=C(C=C1)Cl)=O | C29H29ClF3NO5
